US05436264
Proceeding as an Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(2-aminocarbonyl-1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(2-aminocarbonyl-1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 154°-156° C.

reactant | 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(C)C | C13H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(2-aminocarbonyl-1H-indol-3-yl)-1,1-dimethylethyl]amine | NC(=O)C=1NC2=CC=CC=C2C1CC(C)(C)N | C13H17N3O
product | [2-(2-aminocarbonyl-1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.NC(=O)C=1NC2=CC=CC=C2C1CC(C)(C)NCCOC1=C(C=CC=C1)OCC(C)C | InChI=1S/C25H33N3O3.ClH/c1-17(2)16-31-22-12-8-7-11-21(22)30-14-13-27-25(3,4)15-19-18-9-5-6-10-20(18)28-23(19)24(26)29;/h5-12,17,27-28H,13-16H2,1-4H3,(H2,26,29);1H
